US07834010B2
Synthesis of 1H-indole-3-carboxylic acid 1-(3-carboxy-propyl)-piperidin-4-ylmethyl ester
1H-indole-3-carboxylic acid 1-[3-(2,2,2-trichloroethyl-ethoxycarbonyl)-propyl]piperidine-4-ylmethyl ester (0.48 g, 1.0 mmol) was dissolved in a mixture of THF (25 ml) and aqueous 1 M KH2PO4 (5 ml). Zn-powder (0.66 g, 10.0 mmol) was added and the resulting mixture stirred at room temperature for 24 h. The reaction mixture was filtered through a pad of kiselguhr and the filtrate evaporated in vacuo. The residue was separated with flash chromatography (SiO2, EtOAc/MeOH (2:1)). The expected product was obtained as a white solid (0.29 g, 84.2%). Conversion to the hydrochloride salt was effected using etheral HCl.

reactant | 1H-indole-3-carboxylic acid 1-[3-(2,2,2-trichloroethyl-ethoxycarbonyl)-propyl]piperidine-4-ylmethyl ester | 1.0 mmol, 0.48 g | ClC(CC(C)OC(=O)CCCN1CCC(CC1)COC(=O)C1=CNC2=CC=CC=C12)(Cl)Cl | C23H29Cl3N2O4
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | KH2PO4 | 1 M, 5 ml | OP(=O)(O)[O-].[K+]
catalyst | Zn | 10.0 mmol, 0.66 g | [Zn] | Zn
product | 1H-indole-3-carboxylic acid 1-(3-carboxy-propyl)-piperidin-4-ylmethyl ester | C(=O)(O)CCCN1CCC(CC1)COC(=O)C1=CNC2=CC=CC=C12 | C19H24N2O4
